US07989444B2
Preparation 77: 2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride
To a suspension of 1,5-dihydro-benzo[d]azepine-2,4-dione (9.3 g) in toluene (250 ml) borane-methylsulfide complex (20 ml) was added dropwise under nitrogen atmosphere, then the mixture was heated at reflux for 4 h. MeOH (20 ml) was added dropwise and the mixture refluxed for additional 1 h, then cooled to room temperature. A 10% solution of anidrous HCl in ethyl ether (50 ml) was added and the solid precipitate was filtered off, washed with ethyl ether and desiccated under reduced pressure to afford the title compound as a white solid (7.6 g, 78% yield).

reactant | 1,5-dihydro-benzo[d]azepine-2,4-dione | 9.3 g | C1C(NC(CC2=C1C=CC=C2)=O)=O | C10H9NO2
reactant | MeOH | 20 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2,3,4,5-tetrahydro-1H-benzo[d]azepine hydrochloride | 7.6 g, 78% yield | Cl.C1CNCCC2=C1C=CC=C2 | InChI=1S/C10H13N.ClH/c1-2-4-10-6-8-11-7-5-9(10)3-1;/h1-4,11H,5-8H2;1H
